US05155133
4-[3-[(2-hydroxyethyl)[3-(methylsulfinyl)propyl]amino]propoxy]-benzonitrile
4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2-hydroxypropoxy]-benzonitrile, addition salt with biphenyl-2,2'-diyl hydrogen phosphate

reactant | 4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2-hydroxypropoxy]-benzonitrile | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCS(=O)CCC | C18H28N2O3S
reactant | biphenyl-2,2'-diyl hydrogen phosphate | P1(=O)(OC2=C(C=CC=C2)C2=C(C=CC=C2)O1)O | C12H9O4P
product | 4-[3-[(2-hydroxyethyl)[3-(methylsulfinyl)propyl]amino]propoxy]-benzonitrile | OCCN(CCCOC1=CC=C(C#N)C=C1)CCCS(=O)C | C16H24N2O3S
